US07071184B2
c. Allyl-((R)-1-methyl-pent-4-enyl)-carbamic acid benzyl ester
((R)-1-Methyl-pent-4-enyl)-carbamic acid benzyl ester (790 mg, 3.39 mmol) was dissolved in DMF (8 ml) and was cooled to 0 degrees C. Sodium hydride (60% dispersion, 271 mg, 6.78 mmol) was added and the reaction was stirred for 15 minutes. Allyl bromide (1.23 g, 0.88 ml, 10.17 mmol) was added and the reaction mixture was stirred for 3 h at 0 degrees C. H2O (10 ml) was added, then 2N HCl was added dropwise adjusting the pH to 1. The reaction mixture was extracted with Et2O (2×50 ml). The combined organics were washed with aq. 2N HCl, then aq. NaHCO3, then brine. The combined organics were dried with MgSO4, filtered, concentrated in vacuo, then chromatographed on silica gel (5% EtOAc/hexanes) to yield the title compound as a colorless oil (883 mg, 95%).

reactant | ((R)-1-Methyl-pent-4-enyl)-carbamic acid benzyl ester | 3.39 mmol, 790 mg | C(C1=CC=CC=C1)OC(N[C@@H](CCC=C)C)=O | C14H19NO2
reactant | Sodium hydride | 6.78 mmol, 271 mg | [H-].[Na+]
reactant | Allyl bromide | 10.17 mmol, 0.88 ml, 1.23 g | C(C=C)Br | C3H5Br
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | H2O | 10 ml | O | H2O
product | Allyl-((R)-1-methyl-pent-4-enyl)-carbamic acid benzyl ester | 883 mg, 95% | C(C1=CC=CC=C1)OC(N([C@@H](CCC=C)C)CC=C)=O | C17H23NO2
